US06093732
N-[(4-Chlorophenyl)methyl]-6-cyano-8-fluoro-4-hydroxy-3-quinolinecarboxamide
N-[(4-chlorophenyl)methyl]-8-fluoro-4-hydroxy-6-iodo-3-quinolinecarboxamide of Example No. 5 (0.19 g), Pd(PPh3)4 (0.10 g), and KCN (0.06 g) are heated at 60° C. in 60 mL freshly distilled tetrahydrofuran. The reaction is cooled to room temperature. The solid in the reaction mixture is filtered. Thin layer chromatography shows the desired product in the filtrate and the solid. Both are dissolved in a MeOH:CH2Cl2 mixture and adsorbed onto silica. The residue is chromatographed eluting with 3% MeOH:CH2Cl2 (1 L), followed by 4% MeOH:CH2Cl2 (1 L), and 5% MeOH:CH2Cl2 (1 L). The product-containing fractions are evaporated to give an off-white solid (0.08 g).

reactant | N-[(4-chlorophenyl)methyl]-8-fluoro-4-hydroxy-6-iodo-3-quinolinecarboxamide | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C=C(C=C2C1O)I)F | C17H11ClFIN2O2
reactant | KCN | 0.06 g | [C-]#N.[K+]
catalyst | Pd(PPh3)4 | 0.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[(4-Chlorophenyl)methyl]-6-cyano-8-fluoro-4-hydroxy-3-quinolinecarboxamide | 0.08 g | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C=C(C=C2C1O)C#N)F | C18H11ClFN3O2
